US07939241B2
In 260 mL of NMP were dissolved 27.548 g of o-aminophenol and 11.484 g of lithium chloride. To the solution was added 25 g of isophthaloyl chloride under ice-cooling, and the solution was further stirred at room temperature overnight. The reaction mixture was then poured into water, and the precipitation was filtered and washed with water. The obtained precipitation was dissolved in 500 mL of tetrahydrofuran again and dried over magnesium sulfate. The solvent was then evaporated off under a reduced pressure to obtain 40 g of N,N′-di(2-hydroxyphenyl)isophthalamide.

reactant | o-aminophenol | 27.548 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | lithium chloride | 11.484 g | [Cl-].[Li+]
reactant | isophthaloyl chloride | 25 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | water | O | H2O
solvent | NMP | 260 mL | CN1CCCC1=O | C5H9NO
product | N,N′-di(2-hydroxyphenyl)isophthalamide | 40 g | OC1=C(C=CC=C1)NC(C1=CC(C(=O)NC2=C(C=CC=C2)O)=CC=C1)=O | C20H16N2O4
